data/oMe_Silver.jsonl
{"reaction_id": "NR-211_1-c1ccoc1_2-c1ccccc1_3-c1cc2ccccc2cc1_4-C(C)(C)C","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(c1ccoc1)c1ccccc1","[C-]#[N+]c1cc2ccccc2cc1","O=C(O)C(C)(C)C"],"products_smiles": ["O=C(C(C)(C)C)OC(C(=O)Nc1cc2ccccc2cc1)(c1ccoc1)c1ccccc1"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccoc1)c1ccccc1","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(c1ccoc1)(c1ccccc1)C(#[N+]c1cc2ccccc2cc1)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(C(C)(C)C)OC(=[N]c1cc2ccccc2cc1)C(c1ccoc1)(c1ccccc1)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(C(C)(C)C)OC(=[N]c1cc2ccccc2cc1)C(c1ccoc1)(c1ccccc1)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C(C)(C)C)OC(C(=O)Nc1cc2ccccc2cc1)(c1ccoc1)c1ccccc1","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
{"reaction_id": "NR-148_1-CC_2-c1ccccc1_3-C_4-C(C)(C)C_5-C(C)(C)C_6-CCCC(C)C","name": "Mukaiyama Aldol Addition","level": "medium","reactants_smiles": ["C(=C(c1ccccc1)C)(CC)O[Si](C(C)(C)C)(C(C)(C)C)(C(C)(C)C)","C(=O)(C(C)(C)C)(CCCC(C)C)"],"products_smiles": ["CCC(=O)C(c1ccccc1)(C)C(O)(C(C)(C)C)(CCCC(C)C)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Si](C(C)(C)C)(C(C)(C)C)(C(C)(C)C))(C(C)(C)C)(CCCC(C)C)","rationale": "The Lewis acid coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon, making it more susceptible to nucleophilic attack by the silyl enol ether."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCC(=O)C(c1ccccc1)(C)C(O[Si](C(C)(C)C)(C(C)(C)C)(C(C)(C)C))(C(C)(C)C)(CCCC(C)C)","rationale": "The silyl enol ether attacks the activated carbonyl carbon, driven by the strong nucleophilicity of the enol double bond and stabilization of the developing positive charge by the silyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCC(=O)C(c1ccccc1)(C)C(O)(C(C)(C)C)(CCCC(C)C)","rationale": "Proton transfer occurs to replace the silyloxy group with a hydroxyl, favored under acidic conditions and driven by the stability of the neutral β-hydroxy carbonyl product."}],"description": "Under acidic conditions, the Mukaiyama aldol addition proceeds via Lewis acid activation of the carbonyl, enabling nucleophilic attack by the silyl enol ether. Subsequent proton transfer yields the β-hydroxy carbonyl product with high chemoselectivity due to enhanced electrophilicity and stable intermediates."}
